US09370515B2
Preparation of 6-chloro-3-(5-chloro-3-methylbenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine
To a solution of 6-chloroimidazo[1,2-b]pyridazine (606 mg, 3.95 mmol, 1.0 equiv) in toluene (10.00 mL) was added 2-bromo-5-chloro-3-methylbenzo[b]thiophene (1.03 g, 3.95 mmol, 1.0 equiv), potassium carbonate (1.09 g, 7.90 mmol, 2.0 equiv), triphenyl phosphine (207 mg, 0.790 mmol, 0.20 equiv) and potassium acetate (89 mg, 0.395 mmol, 0.1 equiv). The reaction mixture was heated to reflux for 24 h. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 500 mg of the white solid, 38%.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 3.95 mmol, 606 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | 2-bromo-5-chloro-3-methylbenzo[b]thiophene | 3.95 mmol, 1.03 g, 1.0 equiv | BrC1=C(C2=C(S1)C=CC(=C2)Cl)C | C9H6BrClS
reactant | potassium carbonate | 7.90 mmol, 1.09 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphine | 0.790 mmol, 207 mg, 0.20 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 0.395 mmol, 89 mg, 0.1 equiv | C(C)(=O)[O-].[K+]
solvent | toluene | 10.00 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-(5-chloro-3-methylbenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine | 500 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=C(C1=C(S2)C=CC(=C1)Cl)C | C15H9Cl2N3S
